US09422281B2
N,N-Diisopropylethylamine (0.018 mL, 0.102 mmol) was added to a solution of (S)-7-bromo-3-methyl-1-tosyl-1,2,3,4-tetrahydropyrido[3,4-b]pyrazine (0.013 g, 0.034 mmol) and acetyl chloride (3.6 μL, 0.051 mmol) in dichloromethane (2.0 mL), and the mixture stirred at room temperature for 2 h. The reaction mixture was partitioned between dichloromethane and water. The aqueous phase was separated and extracted with dichloromethane. The combined organic phases were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated to afford a yellow oil. This material was purified via column chromatography on silica gel (Biotage 10 g column, gradient elution with 50-100% ethyl acetate-hexane) to afford (S)-1-(7-bromo-3-methyl-1-tosyl-2,3-dihydropyrido[3,4-b]pyrazin-4(1H)-yl)ethanone (0.010 g, 69%) as an off-white solid. MS (ESI, pos. ion) m/z 424, 426.

reactant | N,N-Diisopropylethylamine | 0.102 mmol, 0.018 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (S)-7-bromo-3-methyl-1-tosyl-1,2,3,4-tetrahydropyrido[3,4-b]pyrazine | 0.034 mmol, 0.013 g | BrC1=CC2=C(N[C@H](CN2S(=O)(=O)C2=CC=C(C)C=C2)C)C=N1 | C15H16BrN3O2S
reactant | acetyl chloride | 0.051 mmol, 3.6 μL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
product | (S)-1-(7-bromo-3-methyl-1-tosyl-2,3-dihydropyrido[3,4-b]pyrazin-4(1H)-yl)ethanone | 0.010 g, 69% | BrC1=CC2=C(N([C@H](CN2S(=O)(=O)C2=CC=C(C)C=C2)C)C(C)=O)C=N1 | C17H18BrN3O3S
